US08729263B2
A 1-L flask was charged with 5-chloro-2-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenol hydrochloride (9.2 g, 23 mmol), N-Boc-Pyrazole-4-boronic acid pinacol ester (10.2 g, 35 mmol), Cs2CO3 (15 g, 46 mmol), 1,4-dioxane (100 mL) and water (25 mL). The mixture was purged with nitrogen 3 times. X-Phos (0.88 g, 1.85 mmol) and Pd2 dba3 (0.845 g, 0.922 mmol) were added. The mixture was purged with nitrogen 3 times, then heated at 80° C. for 3 hrs. By HPLC analysis, the reaction was complete. 37% HCl (10 mL) was added slowly over 20 min. Ethanol (100 mL) and H2O (200 mL) were added and the reaction mixture was heated to 75-80° C. for 16 hours. The reaction mixture was cooled to 50-60° C., and the insoluble black solids were filtered. The filtrate was cooled to 30° C., and 2N NaOH (50 mL) was added to basify the solution to pH 8-9. The resulting precipitate was stirred for 30 min, then filtered and dried under vacuum at 50° C. to give 5-(1H-pyrazol-4-yl)-2-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenol as yellow solid. HRMS m/z 394.2239 [M+H]; 1H-NMR: (DMSO-d6, 400 MHz) δ 13.2 (br, 1H), 13.0 (br, 1H), 8.44 (d, J=8 Hz, 1H), 8.14 (br, 2H), 7.93 (d, J=8 Hz, 1H), 7.39 (d, J=12 Hz, 1H), 7.24 (d, J=8 Hz, 2H), 5.64 (m, 1H), 2.10 (dd, Ja=4 Hz, Jb=12 Hz, 2H), 1.26-1.30 (m, J=8 Hz, 2H), 1.23 (s, 6H), 1.10 (s, 6H). 13C-NMR: (DMSO-d6, 100 MHz) δ 162.80, 158.55, 155.97, 136.13, 128.30, 127.71, 120.42, 120.01, 116.26, 115.13, 113.44, 71.32, 50.99, 43.20, 34.33, 29.14.

reactant | 5-chloro-2-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenol hydrochloride | 23 mmol, 9.2 g | Cl.ClC=1C=CC(=C(C1)O)C=1N=NC(=CC1)OC1CC(NC(C1)(C)C)(C)C
reactant | N-Boc-Pyrazole-4-boronic acid pinacol ester | 35 mmol, 10.2 g | C(=O)(OC(C)(C)C)N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C14H23BN2O4
reactant | Cs2CO3 | 46 mmol, 15 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | X-Phos | 1.85 mmol, 0.88 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
catalyst | Pd2 dba3 | 0.922 mmol, 0.845 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 25 mL | O | H2O
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 5-(1H-pyrazol-4-yl)-2-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenol | N1N=CC(=C1)C=1C=CC(=C(C1)O)C=1N=NC(=CC1)OC1CC(NC(C1)(C)C)(C)C | C22H27N5O2
